US05153210
A mixture of 2-hydroxy-2-(3-chlorophenyl)ethanamine carbonate (0.34 g) and 3,4-dihydro-5-(4-acetonylphenyl)-6-methyl-2(1H)-pyridone (0.4 g) was dissolved in methanol (30 ml). Sodium cyanoborohydride (0.1 g) was added and the mixture was allowed to stand at room tempeature for 16 hr. The solvent was evaporated, the residue partitioned between ethylacetate and water, the organic layer separated, dried (MgSO4) and evaporated to give an oil which was chromatographed on Silica. Elution with methanol-chloroform (3:97) gave 5-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenyl]-3,4-dihydro-6-methyl-2(1H)-pyridinone as a 1:1 mixture of diastereoismers, m.pt. 103°-106° C. (ethyl acetate ether).

reactant | 2-hydroxy-2-(3-chlorophenyl)ethanamine carbonate | 0.34 g | C(O)(O)=O.OC(CN)C1=CC(=CC=C1)Cl
reactant | 3,4-dihydro-5-(4-acetonylphenyl)-6-methyl-2(1H)-pyridone | 0.4 g | C(C(=O)C)C1=CC=C(C=C1)C=1CCC(NC1C)=O | C15H17NO2
reactant | Sodium cyanoborohydride | 0.1 g | C(#N)[BH3-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 5-[4-[2-[(3-chloro-β-hydroxyphenethyl)amino]propyl]phenyl]-3,4-dihydro-6-methyl-2(1H)-pyridinone | ClC=1C=C(C(CNC(CC2=CC=C(C=C2)C=2CCC(NC2C)=O)C)O)C=CC1 | C23H27ClN2O2
